US04317920
To a solution of 4.2 g. of 2-hydroxy-3-phenoxy-hydratropic acid sulphate dipotassium salt in 50 ml. of water 2 g. of potassium hydroxide and 2 g. of a Raney nickel catalyst prepared freshly according to Urushibara, and the reaction mixture is stirred at 60° C. for 10 to 15 minutes. The catalyst is filtered off and the filtrate is acidified with a 20% aqueous hydrochloric acid solution. The separated solution is extracted with chloroform and the chloroform solution is dried over sodium sulphate and evaporated. 2.35 g. (97%) of 3-phenoxy-hydratropic acid are obtained. Melting point of the corresponding cyclohexylamine salt: 151° C. to 153° C.

reactant | 2-hydroxy-3-phenoxy-hydratropic acid sulphate dipotassium salt | [K+].[K+].S(=O)(=O)([O-])[O-].OC1=C(C(C(=O)O)C)C=CC=C1OC1=CC=CC=C1
reactant | potassium hydroxide | [OH-].[K+]
catalyst | Raney nickel | [Ni] | Ni
solvent | water | 2 g | O | H2O
product | 3-phenoxy-hydratropic acid | 97% | O(C1=CC=CC=C1)C=1C=C(C(C(=O)O)C)C=CC1 | C15H14O3
